US08053581B2
Step 3: Preparation of 1-(4-methoxy-phenyl)-3-(4-nitro-phenyl)-propan-1-one
A procedure similar to step 2 of Example 1 was used, the 3-(4-nitro-phenyl)-propionyl chloride prepared in the step 2 and methylphenyl ether were used as starting materials, and anhydrous AlCl3 was used as catalyst, the obtained product was white solid in a yield of 81.3%, mp: 123-125 └. 1H-NMR (CDCl3, 400 MHz) δ: 3.18 (2H, t, J=7.00 Hz), 3.30 (2H, t, J=7.00 Hz), 3.87 (3H, s, OCH3), 6.93 (2H, d, J=8.96 Hz, ArH), 7.42 (2H, d, J=8.60 Hz, ArH), 7.93 (2H, d, J=8.96 Hz, ArH), 8.15 (2H, d, J=8.60 Hz, ArH); EI-MS m/e (%): 285.0 (M+, 62), 134 (100).

reactant | 3-(4-nitro-phenyl)-propionyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)CCC(=O)Cl | C9H8ClNO3
reactant | methylphenyl ether | COC1=CC=CC=C1 | C7H8O
catalyst | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
product | 1-(4-methoxy-phenyl)-3-(4-nitro-phenyl)-propan-1-one | yield of 81.3% | COC1=CC=C(C=C1)C(CCC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H15NO4
